US05624935
5-{4-(3-Methylimidazo[5,4-d]pyrimidin-2-ylmethoxy)-benzyl}-3-triphenylmethylthiazolidine-2,4-dione
A procedure similar to that described in Preparation 4 was repeated, except that 0.37 g of 2-hydroxymethyl-3methylimidazo[5,4-d]pyrimidine (prepared as described in Preparation 50), 2.51 g of 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4 dione, 1.34 ml of tributylphosphine, 1.36 g of 1,1'-(azodicarbonyl)dipiperidine and 50 ml of benzene were used, to give the title compound as a crude product. This crude product was purified by column chromatography through silica gel, using a gradient elution method, with mixtures of hexane and ethyl acetate in a ratio of 2:1 by volume, and then in ratios ranging from 1:1 to 1:2 by volume, and subsequently a 6:1 by volume mixture of ethyl acetate and ethanol as the eluent. The desired fractions were collected and concentrated by evaporation under reduced pressure. The concentrate was further purified by preparative reverse-phase high speed liquid chromatography through YMC-Pack ODS-A (a product of YMC Inc.) using a 100:100:1:1 by volume mixture of acetonitrile, water, acetic acid and triethylamine as the eluent, to give 0.24 g of the title compound, melting at 55°-65° C. (softening).

reactant | 2-hydroxymethyl-3methylimidazo[5,4-d]pyrimidine | 0.37 g | OCC=1N(C=2N=CN=CC2N1)C | C7H8N4O
reactant | 5-(4-hydroxybenzyl)-3-triphenylmethylthiazolidine-2,4 dione | 2.51 g | OC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO3S
reactant | tributylphosphine | 1.34 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperidine | 1.36 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-(3-Methylimidazo[5,4-d]pyrimidin-2-ylmethoxy)-benzyl}-3-triphenylmethylthiazolidine-2,4-dione | CN1C(=NC2=C1N=CN=C2)COC2=CC=C(CC1C(N(C(S1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C=C2 | C36H29N5O3S
